US07935699B2
In a flask (4-isopropylsulfanyl-phenyl)-oxo-acetic acid ethyl ester (4.00 g, 15.85 mmol) was dissolved in toluene (10 mL) and heated to 50° C. in an oil bath. To this heated solution was then added an aqueous sodium hydroxide solution (3 M solution, 6.55 mL, 19.66 mmol) dropwise keeping the temperature of the reaction below 60° C. The reaction was then stirred at 50° C. for 1.5 h. After this time the reaction was removed from the oil bath and concentrated hydrochloric acid (1.52 mL, 18.23 mmol) was added dropwise while the reaction was still at 50° C. It was then allowed to cool to 25° C. and stirred for 16 h. Filter off the solid which turned out to be hygroscopic so the filter paper was washed with methylene chloride and transferred the filterate to a separatory funnel. The aqueous layer was extracted with methylene chloride (3×20 mL) and then the organics were dried over magnesium sulfate, filtered and concentrated in vacuo to afford (4-isopropylsulfanyl-phenyl)-oxo-acetic acid (3.35 g, 94%) as a yellow oily solid (there was a small impurity but the material was carried on without purification).

reactant | (4-isopropylsulfanyl-phenyl)-oxo-acetic acid ethyl ester | 15.85 mmol, 4.00 g | C(C)OC(C(=O)C1=CC=C(C=C1)SC(C)C)=O | C13H16O3S
reactant | sodium hydroxide | 19.66 mmol, 3 M, 6.55 mL | [OH-].[Na+]
reactant | hydrochloric acid | 18.23 mmol, 1.52 mL | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (4-isopropylsulfanyl-phenyl)-oxo-acetic acid | 3.35 g, 94% | C(C)(C)SC1=CC=C(C=C1)C(C(=O)O)=O | C11H12O3S
